US06258829B1
9-Chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonylguanidine
In an atmosphere of argon, guanidine hydrochloride (4.08 g, 42.7 mmol) was added to 28% sodium methoxide methanol solution (8.0 ml, 41.5 mmol) at 0° C. After 30 minutes of stirring at the same temperature, the thus precipitated sodium chloride was removed by filtration using a glass filter and the resulting filtrate was evaporated under reduced pressure to obtain free guanidine. Guanidine and ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (1.10 g, 4.12 mmol) were suspended in 2-propanol (6.0 ml) and stirred at room temperature for 5 hours. The solvent was evaporated under reduced pressure, and the resulting residue was mixed with water and extracted with ethyl acetate. The thus obtained organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=10:1-5:1) to obtain the title compound (494.0 mg, 42.7%) as white powder.

reactant | Guanidine | NC(=N)N | CH5N3
reactant | ethyl 9-chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 4.12 mmol, 1.10 g | ClC1CCCCC=2C1=NC(=C(C2)C(=O)OCC)C | C14H18ClNO2
solvent | 2-propanol | 6.0 ml | CC(C)O | C3H8O
product | 9-Chloro-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carbonylguanidine | 494.0 mg, 42.7% | ClC1CCCCC=2C1=NC(=C(C2)C(=O)NC(=N)N)C | C13H17ClN4O
